US03997530
Preparation of 1-cyclopropyl-3-(3-pyridyl)-1,3-propanedione
A mixture of 39 g. of ethyl nicotinate, 33 g. of cyclopropylmethyl ketone and 18 g. of sodium methoxide in 400 ml. of benzene is heated under refluxed for 6 hours. The mixture is diluted with 400 ml. of water and the benzene phase is separated. The aqueous phase is made weakly acidic with dilute hydrochloric acid and extracted with chloroform. The chloroform solution is dried over magnesium sulfate and concentrated under reduced pressure to give a solid. This solid is recrystallized from hexane to give colorless crystals, melting point 69°-70° C.

reactant | ethyl nicotinate | C(C1=CN=CC=C1)(=O)OCC | C8H9NO2
reactant | cyclopropylmethyl ketone | C1(CC1)C(=O)C | C5H8O
reactant | sodium methoxide | C[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-cyclopropyl-3-(3-pyridyl)-1,3-propanedione | C1(CC1)C(CC(=O)C=1C=NC=CC1)=O | C11H11NO2
